US04210753
1.0 g of 8-(2-propynyloxy)-5-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril was dissolved in 20 ml of methanol. 0.7 g of anhydrous potassium carbonate and 1.7 g of morpholine were then added to the solution followed by stirring while refluxing for 4 hours. After completion of the reaction, the methanol and the unreacted morpholine were evaporated under reduced pressure, and the residual oil was converted into a hydrochloride with an aqueous hydrochloric acid, and washed with chloroform. The aqueous layer was separated, made alkaline with sodium hydroxide and extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous sodium sulfate. The chloroform was evaporated under reduced pressure, and the residue was converted into a hydrochloride with ehtanolhydrochloric acid. Recrystallization from water-ethanol gave 0.8 g of 8-(2-propynyloxy)-5-(2-hydroxy-3-morpholinopropoxy)-3,4-dihydrocarbostyril hydrochloride having a melting point of 234.5°-235° C.

reactant | 8-(2-propynyloxy)-5-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril | 1.0 g | C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CCl)O | C15H16ClNO4
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 1.7 g | N1CCOCC1 | C4H9NO
solvent | methanol | 20 ml | CO | CH4O
product | 8-(2-propynyloxy)-5-(2-hydroxy-3-morpholinopropoxy)-3,4-dihydrocarbostyril hydrochloride | 0.8 g | Cl.C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CN1CCOCC1)O | InChI=1S/C19H24N2O5.ClH/c1-2-9-25-17-5-4-16(15-3-6-18(23)20-19(15)17)26-13-14(22)12-21-7-10-24-11-8-21;/h1,4-5,14,22H,3,6-13H2,(H,20,23);1H
